US08084448B2
D. 5-{2-Benzyloxy-4-[(E)-2-(2-benzyloxymethyl-2H-pyrazol-3-yl)-vinyl]-phenyl}-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one
A mixture of 1-benzyloxymethyl-5-vinyl-1H-pyrazole (385 mg, 1.80 mmol), 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one (500 mg, 0.90 mmol), Pd(OAc)2 (13 mg, 0.06 mmol), P(o-tolyl)3 (43 mg, 0.14 mmol) and triethylamine (0.21 mL, 1.5 mmol) in MeCN is heated at 110° C. for 30 min in a microwave apparatus. The reaction mixture is concentrated and chromatographed using a gradient of 15-30% EtOAc/hexanes to afford the title compound as a yellow oil: (M+1)+=631.

reactant | 1-benzyloxymethyl-5-vinyl-1H-pyrazole | 1.80 mmol, 385 mg | C(C1=CC=CC=C1)OCN1N=CC=C1C=C | C13H14N2O
reactant | 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | 0.90 mmol, 500 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C20H25IN2O4SSi
reactant | P(o-tolyl)3 | 0.14 mmol, 43 mg | CC1=C(C=CC=C1)P(C2=C(C=CC=C2)C)C3=C(C=CC=C3)C | C21H21P
reactant | triethylamine | 1.5 mmol, 0.21 mL | C(C)N(CC)CC | C6H15N
solvent | MeCN | CC#N | C2H3N
catalyst | Pd(OAc)2 | 0.06 mmol, 13 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 5-{2-Benzyloxy-4-[(E)-2-(2-benzyloxymethyl-2H-pyrazol-3-yl)-vinyl]-phenyl}-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)\C=C\C=1N(N=CC1)COCC1=CC=CC=C1)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C33H38N4O5SSi
